US05273986
(E)-3-[2-[3-[2-[4-(Cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid
A solution composed of 0.5 g of (E)-3-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester, 20 ml of tetrahydrofuran, 3 ml of methanol, 3 ml of water and 353 mg of lithium hydroxide monohydrate was allowed to stand at room temperature for 20 hr. The solvents were removed by rotary evaporation and the residual materials were taken up in 30 ml of water. Addition of excess acetic acid caused the precipitation of 0.49 g of (E)-3-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid; m.p. 208°-209° C. after recrystallization from 2-propanol.

reactant | (E)-3-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester | 0.5 g | COC(C1=CC(=CC=C1)CC(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)=O | C25H24N2O3S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | methanol | 3 ml | CO | CH4O
reactant | lithium hydroxide monohydrate | 353 mg | O.[OH-].[Li+]
solvent | water | 3 ml | O | H2O
product | (E)-3-[2-[3-[2-[4-(Cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC=1C=C(C(=O)O)C=CC1)=O | C24H22N2O3S
